US04342692
B. Cis-2-(3,4-dihydroxybenzyl)-5-[2-(4-hydroxyphenyl)ethyl]pyrrolidine hydrobromide
To a cold solution of 3 g. (0.008 mole ) of cis-2-(3,4-dimethoxybenzyl)-5-[2-(4-methoxyphenyl)ethyl]pyrrolidine hydrochloride in 50 ml. of methylene chloride was added dropwise 8 g. (0.032 mole) of boron tribromide at -60° C. After addition of boron tribromide was finished, the cold bath was removed, and the reaction mixture was gradually warmed up to room temperature over a period of about one and a half hours. The mixture was then cooled again in a Dry Ice-acetone bath and 25 ml. of methanol was carefully added. After methanol was completely removed, the residue was treated with ethyl acetate. Upon storing in a freezer, an off-white solid crystallized out, which was recrystallized from ethyl acetate and ethanol to give 3.11 g. of pure product, m.p. 195°-198° C.

reactant | cis-2-(3,4-dimethoxybenzyl)-5-[2-(4-methoxyphenyl)ethyl]pyrrolidine hydrochloride | 0.008 mole | Cl.COC=1C=C(C[C@@H]2N[C@@H](CC2)CCC2=CC=C(C=C2)OC)C=CC1OC
reactant | boron tribromide | 0.032 mole | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Cis-2-(3,4-dihydroxybenzyl)-5-[2-(4-hydroxyphenyl)ethyl]pyrrolidine hydrobromide | Br.OC=1C=C(C[C@@H]2N[C@@H](CC2)CCC2=CC=C(C=C2)O)C=CC1O | InChI=1S/C19H23NO3.BrH/c21-17-8-2-13(3-9-17)1-5-15-6-7-16(20-15)11-14-4-10-18(22)19(23)12-14;/h2-4,8-10,12,15-16,20-23H,1,5-7,11H2;1H/t15-,16-;/m1./s1
